* ============================================================
* CANDIDATE behavioral LDO model  (subckt: ldo_model, ports: vin vout gnd)
* Instance params: iload (OP current), slew_en (0=linear PSS/HB core),
*   vdd    = supply DC operating point [V] (default 1.05 = characterized nominal);
*            sets the PSRR DC reference AND shifts Vout DC along the characterized
*            dc_linereg curve (clamped to its measured span [0.9,1.3]V)
*   voutdc = direct Vout DC override [V] (0 = use the characterized DC; >0 pins
*            Vout(iload) to this value, small-signal blocks unchanged)
* Fitted to ground-truth by harness/fit_model.py. All linear/passive +
* controlled sources -> PSS/HB-robust (NO laplace_nd). OP-parameterized by iload
* via quadratic-in-ln(iload) interpolation through corners {20u,121u,250u}.
*   Zout = (R_a + sL_a||R_pl) || (R_b+sL_b) || (ESR+1/sCout)  Cout/ESR auto-extracted;
*          R_pl damps the L rise (inf=peak / finite=plateau); branch B (R_b->inf=off)
*          adds a 2nd resonance/roll-off for multi-pole LDOs (engaged only if it helps)
*   PSRR = i_c*Zout, i_c = G0 + sum Gi/(1+s/wi) [real bank] + one signed COMPLEX 2nd-
*          order section (b0+b1 s)/(1+s/(Q w0)+(s/w0)^2): shelf (1 real)=min-phase, 3 real
*          =non-min-phase mag, + complex section = non-min-phase / notch PHASE (V4/V3).
*          LP filter Rs are noiseless VCCS-conductances (no thermal noise from signal path)
*   Noise= DECOUPLED Norton @vout: white + 6 Lorentzian current sections fit to
*          In=Sv/|Zout| -> output PSD = In*|Zout| exactly, independent of Zout synthesis
* ============================================================
.subckt ldo_model vin vout gnd iload=121u slew_en=0 vdd=1.05 voutdc=0
.param ic = {min(max(iload,20u),250u)}
.param u  = {ln(ic)}
.param VREG121 = 9.181374e-01    $ nominal-corner Vreg (DC-curve table reference)
.param R_a = {min(max(exp((1.782775e-01)*u*u + (2.802200e+00)*u + (1.111241e+01)),1.138562e+00),5.305418e+00)}
.param L_a = {min(max(exp((1.880403e-01)*u*u + (3.044839e+00)*u + (3.209656e+00)),1.101301e-04),4.454563e-04)}
.param R_pl = {min(max(exp((-1.622867e-09)*u*u + (-3.220823e-08)*u + (2.072327e+01)),9.950249e+08),1.005000e+09)}
.param R_b = {min(max(exp((6.172311e-02)*u*u + (5.340794e-01)*u + (3.099654e+00)),1.837510e+01),9.480272e+01)}
.param L_b = {min(max(exp((1.537914e-01)*u*u + (2.368046e+00)*u + (-5.970785e+00)),2.948029e-07),1.261084e-06)}
.param G0 = {min(max((2.346485e-04)*u*u + (5.405821e-03)*u + (3.146876e-02),4.370787e-04),2.786002e-03)}
.param G1 = {min(max((-1.014965e-03)*u*u + (-8.998533e-03)*u + (2.870805e-02),7.119307e-03),3.365296e-02)}
.param w1 = {min(max(exp((-7.532596e-03)*u*u + (-1.996171e-01)*u + (8.109321e+00)),1.031951e+04),1.199564e+04)}
.param G2 = {min(max((7.500926e-03)*u*u + (1.428922e-01)*u + (6.899725e-01),1.131201e-02),2.207929e-02)}
.param w2 = {min(max(exp((-3.700773e-02)*u*u + (-6.543930e-01)*u + (1.506620e+01)),5.425404e+07),6.326528e+07)}
.param G3 = {min(max((-6.355377e-03)*u*u + (-1.203852e-01)*u + (-5.800872e-01),-2.160566e-02),-1.123863e-02)}
.param w3 = {min(max(exp((-6.407549e-02)*u*u + (-1.088649e+00)*u + (1.351563e+01)),5.313918e+07),7.568552e+07)}
.param pcb0 = {min(max((-6.357665e-04)*u*u + (-1.181738e-02)*u + (-5.343998e-02),-1.332470e-05),1.433675e-03)}
.param pcb1 = {min(max((2.870751e-08)*u*u + (4.970369e-07)*u + (2.147655e-06),-6.216193e-10),1.311980e-07)}
.param pcw0 = {min(max(exp((-3.099801e+00)*u*u + (-5.365171e+01)*u + (-2.135126e+02)),6.008728e+01),8.373465e+07)}
.param pcq = {min(max(exp((-5.388606e-02)*u*u + (-6.910806e-01)*u + (-1.729897e+00)),5.678728e-01),1.349936e+00)}
.param gnw = {min(max(exp((-1.662647e-01)*u*u + (-2.717861e+00)*u + (-2.643518e+01)),6.841125e-08),2.208725e-07)}
.param gn1 = {min(max(exp((-1.696184e-01)*u*u + (-2.635528e+00)*u + (-6.959615e+00)),5.443411e+00),2.543964e+01)}
.param gn2 = {min(max(exp((-1.889895e-01)*u*u + (-2.994430e+00)*u + (-1.002182e+01)),1.281097e+00),6.161348e+00)}
.param gn3 = {min(max(exp((1.141507e+00)*u*u + (1.952154e+01)*u + (7.646774e+01)),9.837231e-04),3.287288e-01)}
.param gn4 = {min(max(exp((-7.669344e-02)*u*u + (-8.510669e-01)*u + (-1.291949e+01)),3.068152e-06),1.464304e-05)}
.param gn5 = {min(max(exp((4.491735e+00)*u*u + (8.981171e+01)*u + (4.321558e+02)),1.062046e-06),2.352094e-02)}
.param gn6 = {min(max(exp((-1.683609e-01)*u*u + (-2.656190e+00)*u + (-1.360711e+01)),1.023125e-02),4.271085e-02)}
.param vreg = {min(max((1.489284e-05)*u*u + (2.105520e-04)*u + (9.188249e-01),9.181022e-01),9.182912e-01)}
* ---- R3-L1: settable supply / output DC (defaults reproduce the characterized DC) ----
.param vddc = {min(max(vdd,9.000000e-01),1.300000e+00)}    $ vdd clamped to the dc_linereg span
.param lrsh = {(-1.510321e+01)*vddc*vddc*vddc*vddc + (6.823824e+01)*vddc*vddc*vddc + (-1.151870e+02)*vddc*vddc + (8.612924e+01)*vddc + (-2.315929e+01) - (9.189932e-01)}    $ DC line-reg shift vs characterized nominal
.param vregeff = {vreg + lrsh + ((voutdc > 0) ? (voutdc - (vreg + lrsh - R_a*ic)) : 0)}
.param COUT=9.977525e-10 ESR=4.999704e-01    $ auto-extracted physical output cap / ESR
.param Cps=1p Rp1={1/(w1*Cps)} Rp2={1/(w2*Cps)} Rp3={1/(w3*Cps)}
* complex PSRR section: a1=1/(Q.w0), a2=1/w0^2 ; series R-L-C w/ Cpc fixed -> Rpc,Lpc
.param Cpc=1p pca1={1/(pcq*pcw0)} pca2={1/(pcw0*pcw0)}
.param Rpc={pca1/Cpc} Lpc={pca2/Cpc} gqb1={pcb1/pca1}
*
* ---- DC operating point: regulated Vreg (constant per instance; vregeff adds the
*      R3-L1 vdd line-reg shift / voutdc override). AC vin->vout coupling is handled
*      ENTIRELY by the PSRR path below (small-signal-consistent: its DC limit
*      g_lf*R_a = the measured PSRR LF). A broadband line-reg term here would
*      create a parasitic flat PSRR floor, so it is intentionally omitted.
Breg vreg gnd V = {vregeff}
*
* ---- Zout: branch A (R_a + L_a) || branch C (ESR+Cout) || branch B (opt) ----
La   vout nA  {L_a}
Rpl  vout nA  {R_pl}            $ damping across L_a (R_pl->inf = peak; finite = plateau)
* branch-A conductance: linear R_a (slew_en=0, PSS/HB) OR nonlinear DC-curve w/
* current-limit+dropout (slew_en=1). La in series stays -> resonance + di/dt slew.
Bra  vreg nA I = {(slew_en > 0.5) ? pwl(V(vreg,nA)-(vregeff-VREG121),-3.085626e-04,1.000000e-06,-8.874859e-05,1.300000e-05,-2.471559e-05,2.500000e-05,1.665341e-05,3.700000e-05,4.826941e-05,4.900000e-05,7.445941e-05,6.100000e-05,9.721241e-05,7.300000e-05,1.176094e-04,8.500000e-05,1.363084e-04,9.700000e-05,1.537394e-04,1.090000e-04,1.701984e-04,1.210000e-04,1.859004e-04,1.330000e-04,2.010044e-04,1.450000e-04,2.156304e-04,1.570000e-04,2.298734e-04,1.690000e-04,2.438084e-04,1.810000e-04,2.574944e-04,1.930000e-04,2.709814e-04,2.050000e-04,2.843084e-04,2.170000e-04,2.975094e-04,2.290000e-04,3.106114e-04,2.410000e-04,3.236384e-04,2.530000e-04,3.366094e-04,2.650000e-04,3.495424e-04,2.770000e-04,3.624504e-04,2.890000e-04,3.753474e-04,3.010000e-04,3.882434e-04,3.130000e-04,4.011474e-04,3.250000e-04,4.140684e-04,3.370000e-04,4.270134e-04,3.490000e-04,4.399884e-04,3.610000e-04,4.529984e-04,3.730000e-04,4.660494e-04,3.850000e-04,4.791444e-04,3.970000e-04,4.922884e-04,4.090000e-04,5.054844e-04,4.210000e-04,5.187354e-04,4.330000e-04,5.320444e-04,4.450000e-04,5.454134e-04,4.570000e-04,5.588454e-04,4.690000e-04,5.723424e-04,4.810000e-04,5.859064e-04,4.930000e-04,6.177304e-04,5.210000e-04,6.407734e-04,5.410000e-04,6.640334e-04,5.610000e-04,6.875174e-04,5.810000e-04,7.112394e-04,6.010000e-04,7.352094e-04,6.210000e-04,7.594424e-04,6.410000e-04,7.839524e-04,6.610000e-04,8.087594e-04,6.810000e-04,8.338824e-04,7.010000e-04,8.593454e-04,7.210000e-04,8.851784e-04,7.410000e-04,9.114134e-04,7.610000e-04,9.380924e-04,7.810000e-04,9.652644e-04,8.010000e-04,9.929914e-04,8.210000e-04,1.021347e-03,8.410000e-04,1.050423e-03,8.610000e-04,1.080341e-03,8.810000e-04,1.111264e-03,9.010000e-04,1.143412e-03,9.210000e-04,1.177100e-03,9.410000e-04,1.212792e-03,9.610000e-04,1.251206e-03,9.810000e-04,1.293526e-03,1.001000e-03,1.341833e-03,1.021000e-03,1.400072e-03,1.041000e-03,1.476316e-03,1.061000e-03,1.614851e-03,1.081000e-03,1.828476e-03,1.101000e-03,2.205790e-03,1.121000e-03,2.834699e-03,1.141000e-03,3.783894e-03,1.161000e-03,5.124448e-03,1.181000e-03,6.870346e-03,1.201000e-03,8.952896e-03,1.221000e-03,1.125306e-02,1.241000e-03,1.367406e-02,1.261000e-03,1.616563e-02,1.281000e-03,1.870209e-02,1.301000e-03,2.127098e-02,1.321000e-03,2.386614e-02,1.341000e-03,2.648509e-02,1.361000e-03,2.912759e-02,1.381000e-03,3.179211e-02,1.401000e-03,3.447435e-02,1.421000e-03,3.717156e-02,1.441000e-03,3.987595e-02,1.461000e-03,4.260149e-02,1.481000e-03,4.534081e-02,1.501000e-03,4.809415e-02,1.521000e-03,5.086163e-02,1.541000e-03,5.364339e-02,1.561000e-03,5.643961e-02,1.581000e-03,5.925050e-02,1.601000e-03,6.207624e-02,1.621000e-03,6.491705e-02,1.641000e-03,6.777315e-02,1.661000e-03,7.064476e-02,1.681000e-03,7.353212e-02,1.701000e-03,7.643547e-02,1.721000e-03,7.935505e-02,1.741000e-03,8.229113e-02,1.761000e-03,8.524396e-02,1.781000e-03,8.821382e-02,1.801000e-03,9.120098e-02,1.821000e-03,9.420574e-02,1.841000e-03,9.722838e-02,1.861000e-03,1.002692e-01,1.881000e-03,1.033285e-01,1.901000e-03,1.064067e-01,1.921000e-03,1.095040e-01,1.941000e-03,1.126208e-01,1.961000e-03,1.157575e-01,1.981000e-03,1.189143e-01,2.001000e-03,1.220918e-01,2.021000e-03,1.252902e-01,2.041000e-03,1.285100e-01,2.061000e-03,1.317515e-01,2.081000e-03,1.350152e-01,2.101000e-03,1.383016e-01,2.121000e-03,1.416111e-01,2.141000e-03,1.449441e-01,2.161000e-03,1.483011e-01,2.181000e-03,1.516826e-01,2.201000e-03,1.550892e-01,2.221000e-03,1.585214e-01,2.241000e-03,1.619797e-01,2.261000e-03,1.654647e-01,2.281000e-03,1.689770e-01,2.301000e-03,1.725172e-01,2.321000e-03,1.760860e-01,2.341000e-03,1.796840e-01,2.361000e-03,1.833119e-01,2.381000e-03,1.869704e-01,2.401000e-03,1.906602e-01,2.421000e-03,1.943822e-01,2.441000e-03,1.981372e-01,2.461000e-03,2.019259e-01,2.481000e-03,2.057494e-01,2.501000e-03,2.096084e-01,2.521000e-03,2.135039e-01,2.541000e-03,2.174370e-01,2.561000e-03,2.214087e-01,2.581000e-03,2.254201e-01,2.601000e-03,2.294722e-01,2.621000e-03,2.335664e-01,2.641000e-03,2.377039e-01,2.661000e-03,2.418860e-01,2.681000e-03,2.461141e-01,2.701000e-03,2.503897e-01,2.721000e-03,2.547142e-01,2.741000e-03,2.590894e-01,2.761000e-03,2.635168e-01,2.781000e-03,2.679985e-01,2.801000e-03,2.725361e-01,2.821000e-03,2.771318e-01,2.841000e-03,2.817877e-01,2.861000e-03,2.865061e-01,2.881000e-03,2.912894e-01,2.901000e-03,2.961401e-01,2.921000e-03,3.010610e-01,2.941000e-03,3.060549e-01,2.961000e-03,3.111251e-01,2.981000e-03,3.162748e-01,3.001000e-03,3.215076e-01,3.021000e-03,3.268273e-01,3.041000e-03,3.322380e-01,3.061000e-03,3.377442e-01,3.081000e-03,3.433505e-01,3.101000e-03,3.490622e-01,3.121000e-03,3.548848e-01,3.141000e-03,3.608243e-01,3.161000e-03,3.668873e-01,3.181000e-03,3.730808e-01,3.201000e-03,3.794126e-01,3.221000e-03,3.858912e-01,3.241000e-03,3.925256e-01,3.261000e-03,3.993261e-01,3.281000e-03,4.063036e-01,3.301000e-03,4.134702e-01,3.321000e-03,4.208391e-01,3.341000e-03,4.284247e-01,3.361000e-03,4.362429e-01,3.381000e-03,4.443109e-01,3.401000e-03,4.526476e-01,3.421000e-03,4.612734e-01,3.441000e-03,4.702101e-01,3.461000e-03,4.794811e-01,3.481000e-03,4.891110e-01,3.501000e-03,4.991255e-01,3.521000e-03,5.095506e-01,3.541000e-03,5.204120e-01,3.561000e-03,5.317346e-01,3.581000e-03,5.435412e-01,3.601000e-03,5.558519e-01,3.621000e-03,5.686831e-01,3.641000e-03,5.820472e-01,3.661000e-03,5.959520e-01,3.681000e-03,6.104013e-01,3.701000e-03,6.253952e-01,3.721000e-03,6.412100e-01,3.741000e-03,6.572780e-01,3.761000e-03,6.738741e-01,3.781000e-03,6.909901e-01,3.801000e-03,7.086169e-01,3.821000e-03,7.267447e-01,3.841000e-03,7.453634e-01,3.861000e-03,7.644621e-01,3.881000e-03,7.840298e-01,3.901000e-03,8.040552e-01,3.921000e-03,8.245263e-01,3.941000e-03,8.454310e-01,3.961000e-03,8.667569e-01,3.981000e-03,8.884912e-01,4.001000e-03,9.106209e-01,4.021000e-03,9.331328e-01,4.041000e-03,9.560133e-01,4.061000e-03,9.792491e-01,4.081000e-03,1.002827e+00,4.101000e-03,1.026732e+00,4.121000e-03,1.050952e+00,4.141000e-03,1.075325e+00,4.161000e-03,1.100139e+00,4.181000e-03,1.125229e+00,4.201000e-03,1.150581e+00,4.221000e-03,1.176182e+00,4.241000e-03,1.202020e+00,4.261000e-03,1.228083e+00,4.281000e-03,1.254359e+00,4.301000e-03,1.280837e+00,4.321000e-03,1.307506e+00,4.341000e-03,1.334356e+00,4.361000e-03,1.361376e+00,4.381000e-03,1.388556e+00,4.401000e-03,1.415888e+00,4.421000e-03,1.443362e+00,4.441000e-03,1.470969e+00,4.461000e-03,1.498702e+00,4.481000e-03,1.526552e+00,4.501000e-03,1.554512e+00,4.521000e-03,1.582575e+00,4.541000e-03,1.610733e+00,4.561000e-03,1.638981e+00,4.581000e-03,1.667312e+00,4.601000e-03,1.695720e+00,4.621000e-03,1.724200e+00,4.641000e-03,1.752745e+00,4.661000e-03,1.781352e+00,4.681000e-03,1.810014e+00,4.701000e-03,1.838728e+00,4.721000e-03,1.867489e+00,4.741000e-03,1.896293e+00,4.761000e-03,1.925136e+00,4.781000e-03,1.954014e+00,4.801000e-03,1.982923e+00,4.821000e-03,2.011861e+00,4.841000e-03,2.040824e+00,4.861000e-03,2.069808e+00,4.881000e-03,2.098812e+00,4.901000e-03,2.127832e+00,4.921000e-03,2.156865e+00,4.941000e-03,2.185909e+00,4.961000e-03,2.214962e+00,4.981000e-03,2.244022e+00,5.001000e-03,2.273085e+00,5.021000e-03,2.302151e+00,5.041000e-03,2.331218e+00,5.061000e-03,2.360283e+00,5.081000e-03,2.389344e+00,5.101000e-03,2.418401e+00,5.121000e-03,2.447451e+00,5.141000e-03,2.476494e+00,5.161000e-03,2.505527e+00,5.181000e-03,2.534549e+00,5.201000e-03,2.563560e+00,5.221000e-03,2.592557e+00,5.241000e-03,2.621540e+00,5.261000e-03,2.650508e+00,5.281000e-03,2.679459e+00,5.301000e-03,2.708393e+00,5.321000e-03,2.737308e+00,5.341000e-03,2.766205e+00,5.361000e-03,2.795081e+00,5.381000e-03,2.823936e+00,5.401000e-03,2.852770e+00,5.421000e-03,2.881581e+00,5.441000e-03,2.910369e+00,5.461000e-03,2.939133e+00,5.481000e-03,2.967874e+00,5.501000e-03,2.996589e+00,5.521000e-03,3.025279e+00,5.541000e-03,3.053943e+00,5.561000e-03,3.082580e+00,5.581000e-03,3.111191e+00,5.601000e-03,3.139774e+00,5.621000e-03,3.168329e+00,5.641000e-03,3.196856e+00,5.661000e-03,3.225355e+00,5.681000e-03,3.253825e+00,5.701000e-03,3.282265e+00,5.721000e-03,3.310676e+00,5.741000e-03,3.339057e+00,5.761000e-03,3.367408e+00,5.781000e-03,3.395728e+00,5.801000e-03,3.424018e+00,5.821000e-03,3.452277e+00,5.841000e-03,3.480505e+00,5.861000e-03,3.508701e+00,5.881000e-03,3.536866e+00,5.901000e-03,3.564999e+00,5.921000e-03,3.593101e+00,5.941000e-03,3.621170e+00,5.961000e-03,3.649207e+00,5.981000e-03) : V(vreg,nA)/R_a}
Cout vout nC  {COUT}
Resr nC  vreg {ESR}
* ---- optional branch B: 2nd parallel R-L for multi-pole Zout (R_b->inf = off) ----
Lb   vout nbb {L_b}
Rbb  nbb  vreg {R_b}
*
* ---- intrinsic output noise: DECOUPLED Norton current @vout (white + 6 Lorentzians).
* Each section = fixed R||C thermal noise (sets corner) x VCCS gm (sets amplitude),
* injected at vout so output PSD = In(f)*|Zout(f)|. Decoupled from the Zout branches
* above -> immune to branch-B re-shaping; fit to In=Sv/|Zout| across load corners.
Rnw  nw gnd 1.000000e+06
Gnw  gnd vout nw gnd {gnw}      $ white floor
Rn1  nk1 gnd 1.000000e+06
Cn1  nk1 gnd 7.956254e-09        $ corner 20 Hz
Gn1  gnd vout nk1 gnd {gn1}
Rn2  nk2 gnd 1.000000e+06
Cn2  nk2 gnd 4.621552e-10        $ corner 344.4 Hz
Gn2  gnd vout nk2 gnd {gn2}
Rn3  nk3 gnd 1.000000e+06
Cn3  nk3 gnd 2.310979e-10        $ corner 688.7 Hz
Gn3  gnd vout nk3 gnd {gn3}
Rn4  nk4 gnd 1.000000e+06
Cn4  nk4 gnd 1.216482e-11        $ corner 1.308e+04 Hz
Gn4  gnd vout nk4 gnd {gn4}
Rn5  nk5 gnd 1.000000e+06
Cn5  nk5 gnd 3.756867e-14        $ corner 4.236e+06 Hz
Gn5  gnd vout nk5 gnd {gn5}
Rn6  nk6 gnd 1.000000e+06
Cn6  nk6 gnd 1.879235e-14        $ corner 8.469e+06 Hz
Gn6  gnd vout nk6 gnd {gn6}
*
* ---- PSRR path: i_c = G0 + sum_i Gi*LP_i(vin-vdd), injected into vout (x Zout).
*      Bank of signed first-order real-pole sections (+ one complex section below).
*      The LP filter resistors are realized as NOISELESS VCCS-conductances (Grp*),
*      NOT physical R: the PSRR coupling is a signal-transfer path, so its filter
*      elements must contribute NO thermal noise (else they corrupt the decoupled
*      Norton noise block). This matches the Verilog-A mirror (which is already
*      noiseless) and is I-V identical to a resistor in .op/.dc/.ac/.tran. ----
Vrf  vrf gnd DC {vdd}              $ supply DC reference (settable; default = fit vin)
Gd   gnd vout vin vrf {G0}         $ feedthrough  G0*(vin-vdd)
Grp1 vin np1 vin np1 {1/Rp1}   $ noiseless conductance (= 1/Rp1)
Cp1  np1 vrf {Cps}             $ np1 = LP1(vin), DC-referenced to vdd
Gs1  gnd vout np1 vrf {G1}         $ G1*(LP1(vin)-vdd)
Grp2 vin np2 vin np2 {1/Rp2}
Cp2  np2 vrf {Cps}
Gs2  gnd vout np2 vrf {G2}         $ G2*(LP2(vin)-vdd)  (0 if min-phase)
Grp3 vin np3 vin np3 {1/Rp3}
Cp3  np3 vrf {Cps}
Gs3  gnd vout np3 vrf {G3}         $ G3*(LP3(vin)-vdd)  (0 if min-phase)
* ---- PSRR complex-conjugate 2nd-order section: carries non-min-phase / notch
*      PHASE that the real shelf cannot. Series Rpc-Lpc-Cpc lowpass state x=V(ncs2,vrf);
*      Gqb0 reads V_C=x, Gqb1 reads V_R=a1*dx/dt -> i_c += (pcb0+pcb1 s)/(1+a1 s+a2 s^2).
*      Inert when pcb0=pcb1=0 (min-phase variants). Rpc is a NOISELESS VCCS-conductance
*      (Grpc); Lpc/Cpc are noiseless -> the whole section adds no thermal noise. No laplace.
Grpc vin  ncs1 vin ncs1 {1/Rpc}    $ noiseless conductance (= 1/Rpc)
Lpc  ncs1 ncs2 {Lpc}
Cpc  ncs2 vrf  {Cpc}
Gqb0 gnd vout ncs2 vrf {pcb0}      $ inject b0*x
Gqb1 gnd vout vin  ncs1 {gqb1}     $ inject b1*dx/dt = (b1/a1)*V_R

.ends ldo_model

